US07015218B1
1-(4-Chlorophenyl)-N-{3-cyano-4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]phenyl}-5-methylpyrazole-4-carboxamide ¼ hydrate
By the reaction and treatment in the same manner as in Example 64 using 1-(4-chlorophenyl)-5-methylpyrazole-4-carboxylic acid (1.7 g) and 5-amino-2-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]benzonitrile (2.0 g), the title compound (0.6 g) was obtained, melting point: 240° C. (decomposition).

reactant | 1-(4-chlorophenyl)-5-methylpyrazole-4-carboxylic acid | 1.7 g | ClC1=CC=C(C=C1)N1N=CC(=C1C)C(=O)O | C11H9ClN2O2
reactant | 5-amino-2-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]benzonitrile | 2.0 g | NC=1C=CC(=C(C#N)C1)N1CCC(CC1)N1CCN(CC1)C | C17H25N5
product | 1-(4-Chlorophenyl)-N-{3-cyano-4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]phenyl}-5-methylpyrazole-4-carboxamide | 0.6 g | ClC1=CC=C(C=C1)N1N=CC(=C1C)C(=O)NC1=CC(=C(C=C1)N1CCC(CC1)N1CCN(CC1)C)C#N | C28H32ClN7O
